US07939528B2
4-Amino-3-nitrophenol (2 g, 13 mmol), 4-fluoro-3-(methyloxy)benzaldehyde (2 g, 13 mmol) and Cs2CO3 (5.1 g, 15.6 mmol) were stirred in dimethylformamide at 100 degrees Centigrade for approximately 18 hours. The reaction was filtered through an Alltech 75 mL Extract-Clean™ filter column packed with glass wool and eluted with ethyl acetate. The eluent was stirred with 5 mL of water then passed through a Varian Chem Elute™ 1010 column which was rinsed with 4-6 mL of ethyl acetate (gravity filtration). The eluent was dried over MgSO4, concentrated onto basic alumina and purified by silica gel column chromatography (hexanes/ethyl acetate gradient) to give 4-[(4-amino-3-nitrophenyl)oxy]-3-(methyloxy)benzaldehyde. (M+1) 289.0, 2.26 min (LC/MS method A)

reactant | 4-Amino-3-nitrophenol | 13 mmol, 2 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | 4-fluoro-3-(methyloxy)benzaldehyde | 13 mmol, 2 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
reactant | Cs2CO3 | 15.6 mmol, 5.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[(4-amino-3-nitrophenyl)oxy]-3-(methyloxy)benzaldehyde | NC1=C(C=C(C=C1)OC1=C(C=C(C=O)C=C1)OC)[N+](=O)[O-] | C14H12N2O5
